US05866612
1-Butoxycarbonylamino-4-(1-imino-2-fluoroethylamino)but-2-yne hydrobromide (500 mg) was deprotected by dissolving in glacial acetic acid (10 ml), cooling until the solution almost solidified and adding HBr in acetic acid (45% wv, 1.8 ml). The mixture was stirred with cooling for 1 h then at room temperature for 1 h. After this time the mother liquor was decanted off and the sticky residue subjected to an oil pump vacuum to remove residual solvent. The resulting material was triturated with dry diethyl ether (×2), filtered off and washed with more dry diethyl ether. The yellow solid was recrystallised from ethanol/diethyl ether and finally dried in a drying pistol to yield 1-amino-4-(1-imino-2-fluoroethylamino)but-2-yne dihydrobromide, Mpt 174°-176.5° C.(dec.), FAB M.S. M+1+ 144.

reactant | 1-Butoxycarbonylamino-4-(1-imino-2-fluoroethylamino)but-2-yne hydrobromide | 500 mg | Br.C(CCC)OC(=O)NCC#CCNC(CF)=N
reactant | HBr | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-amino-4-(1-imino-2-fluoroethylamino)but-2-yne dihydrobromide | Br.Br.NCC#CCNC(CF)=N | InChI=1S/C6H10FN3.2BrH/c7-5-6(9)10-4-2-1-3-8;;/h3-5,8H2,(H2,9,10);2*1H
